US08710242B2
(2E)-3-[5-(Cyclopropylcarbamoyl)-4-(trifluormethyl)pyridin-2-yl]acrylic acid
N-Cyclopropyl-6-iodo-4-(trifluoromethyl)nicotinamide (125 mg, 0.34 mmol) and ethyl (2E)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)acrylate (93 mg, 0.41 mmol) were dissolved in 2 ml of 1,4-dioxane and admixed under argon with sodium carbonate (180 mg, 1.72 mmol) and bis(tricyclohexylphosphine)palladium(II) dichloride. The reaction mixture was heated in a microwave (CEM Discover) at 120° C. (80 W) for 10 min. Then the reaction mixture was filtered through kieselguhr, and the filtrate was taken up in ethyl acetate, washed with hydrochloric acid (1 M), dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue was taken up in 1.5 ml of ethanol, admixed with sodium hydroxide solution (1M) and stirred at room temperature overnight. Then the reaction mixture was added to ice-cold dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure.

reactant | N-Cyclopropyl-6-iodo-4-(trifluoromethyl)nicotinamide | 0.34 mmol, 125 mg | C1(CC1)NC(C1=CN=C(C=C1C(F)(F)F)I)=O | C10H8F3IN2O
reactant | ethyl (2E)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)acrylate | 0.41 mmol, 93 mg | CC1(OB(OC1(C)C)/C=C/C(=O)OCC)C | C11H19BO4
reactant | sodium carbonate | 1.72 mmol, 180 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | bis(tricyclohexylphosphine)palladium(II) dichloride | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Cl-].[Cl-].[Pd+2]
product | (2E)-3-[5-(Cyclopropylcarbamoyl)-4-(trifluormethyl)pyridin-2-yl]acrylic acid | C1(CC1)NC(=O)C=1C(=CC(=NC1)/C=C/C(=O)O)C(F)(F)F | C13H11F3N2O3
